US04788206
As in Example 115, (E)-5,5-bis(2-methoxyphenyl)-2,4-pentadienoic acid (5 g) and 4-nitrophenol (2.7 g) in dichloromethane (35 mL) was treated with 1,3-dicyclohexylcarbodiimide (3.34 g). The mixture was stirred at 0°-5° C. for 30 minutes and then at room temperature for 18 hours. After the usual work up, the crude product was crystallized from 2-propanol to give 6.1 g of (E)-5,5-bis(2-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester, mp 141.5°-143° C. A portion from the 2-propanol to yield the analytical sample, mp 142°-143° C.

reactant | (E)-5,5-bis(2-methoxyphenyl)-2,4-pentadienoic acid | 5 g | COC1=C(C=CC=C1)C(=C/C=C/C(=O)O)C1=C(C=CC=C1)OC | C19H18O4
reactant | 4-nitrophenol | 2.7 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 3.34 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | (E)-5,5-bis(2-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 6.1 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC)=O | C25H21NO6
